*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EGPA350ELL222MM25S
*//   Date        : 2018/02/16 
*//   Update 	  : 2018/06/15 Added SPICE model (-40deg.C/125deg.C)
*//		  : 2018/11/08 Corrected the SUBCKT
*//   Simulater   : P-Spice
*//   Temperature : 20deg.C/-40deg.C/125deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EGPA350ELL222MM25S_20deg-C 1 2

C1 4 2 1.80e-03
C2 5 2 1.66e-04
C3 6 2 5.22e-05
R1 3 4 2.00e-02
R2 4 5 1.97e-01
R3 5 6 1.04e+00
L1 1 3 7.60e-09

.ENDS

.SUBCKT EGPA350ELL222MM25S_-40deg-C 1 2

C1 4 2 3.39e-04
C2 5 2 1.32e-03
C3 6 2 2.81e-04
R1 3 4 6.63e-02
R2 4 5 1.58e-02
R3 5 6 2.33e-01
L1 1 3 7.60e-09

.ENDS

.SUBCKT EGPA350ELL222MM25S_125deg-C 1 2

C1 4 2 1.54e-03
C2 5 2 5.48e-04
C3 6 2 7.55e-05
R1 3 4 1.06e-02
R2 4 5 6.38e-02
R3 5 6 1.98e+00
L1 1 3 7.60e-09

.ENDS
*$

*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EGPA350ELL681MK20S
*//   Date        : 2018/02/16 
*//   Update 	  : 2018/06/15 Added SPICE model (-40deg.C/125deg.C)
*//		  : 2018/11/08 Corrected the SUBCKT
*//   Simulater   : P-Spice
*//   Temperature : 20deg.C/-40deg.C/125deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EGPA350ELL681MK20S_20deg-C 1 2

C1 4 2 5.64e-04
C2 5 2 1.15e-04
C3 6 2 4.52e-05
R1 3 4 4.08e-02
R2 4 5 1.19e-01
R3 5 6 2.08e+00
L1 1 3 6.70e-09

.ENDS

.SUBCKT EGPA350ELL681MK20S_-40deg-C 1 2

C1 4 2 2.46e-05
C2 5 2 1.82e-04
C3 6 2 4.54e-04
R1 3 4 1.81e-01
R2 4 5 3.28e-02
R3 5 6 6.83e-02
L1 1 3 6.70e-09

.ENDS

.SUBCKT EGPA350ELL681MK20S_125deg-C 1 2

C1 4 2 7.27e-04
C2 5 2 4.57e-05
C3 6 2 2.97e-05
R1 3 4 1.65e-02
R2 4 5 1.01e+00
R3 5 6 3.58e+01
L1 1 3 6.70e-09

.ENDS
*$

*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EGPA500ELL102MM20S
*//   Date        : 2018/02/16 
*//   Update 	  : 2018/06/15 Added SPICE model (-40deg.C/125deg.C)
*//		  : 2018/11/08 Corrected the SUBCKT
*//   Simulater   : P-Spice
*//   Temperature : 20deg.C/-40deg.C/125deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EGPA500ELL102MM20S_20deg-C 1 2

C1 4 2 7.52e-04
C2 5 2 1.38e-04
C3 6 2 5.33e-05
R1 3 4 3.48e-02
R2 4 5 1.99e-01
R3 5 6 1.76e+00
L1 1 3 7.50e-09

.ENDS

.SUBCKT EGPA500ELL102MM20S_-40deg-C 1 2

C1 4 2 1.14e-04
C2 5 2 3.24e-04
C3 6 2 4.64e-04
R1 3 4 1.09e-01
R2 4 5 1.98e-02
R3 5 6 5.32e-02
L1 1 3 7.50e-09

.ENDS

.SUBCKT EGPA500ELL102MM20S_125deg-C 1 2

C1 4 2 7.88e-04
C2 5 2 2.12e-04
C3 6 2 3.55e-05
R1 3 4 1.84e-02
R2 4 5 1.72e-01
R3 5 6 2.88e+01
L1 1 3 7.50e-09

.ENDS
*$

*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EGPD250ELL472ML25H
*//   Date        : 2018/02/16
*//   Update 	  : 2018/06/15 Added SPICE model (-40deg.C/135deg.C)
*//		  : 2018/11/08 Corrected the SUBCKT
*//   Simulater   : P-Spice
*//   Temperature : 20deg.C/-40deg.C/135deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EGPD250ELL472ML25H_20deg-C 1 2

C1 4 2 2.33e-03
C2 5 2 1.83e-03
C3 6 2 1.24e-04
R1 3 4 2.31e-02
R2 4 5 1.21e-02
R3 5 6 7.33e+00
L1 1 3 7.50e-09

.ENDS

.SUBCKT EGPD250ELL472ML25H_-40deg-C 1 2

C1 4 2 5.22e-05
C2 5 2 6.98e-04
C3 6 2 3.13e-03
R1 3 4 2.03e-01
R2 4 5 2.79e-02
R3 5 6 1.06e-01
L1 1 3 7.50e-09

.ENDS

.SUBCKT EGPD250ELL472ML25H_135deg-C 1 2

C1 4 2 3.84e-03
C2 5 2 7.85e-04
C3 6 2 2.23e-04
R1 3 4 1.22e-02
R2 4 5 8.66e-02
R3 5 6 5.25e+00
L1 1 3 7.50e-09

.ENDS
*$

*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EGPD350ELL132MK20H
*//   Date        : 2018/02/16
*//   Update 	  : 2018/06/15 Added SPICE model (-40deg.C/135deg.C)
*//		  : 2018/11/08 Corrected the SUBCKT
*//   Simulater   : P-Spice
*//   Temperature : 20deg.C/-40deg.C/135deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EGPD350ELL132MK20H_20deg-C 1 2

C1 4 2 1.00e-03
C2 5 2 1.69e-04
C3 6 2 3.70e-05
R1 3 4 2.71e-02
R2 4 5 1.02e-01
R3 5 6 2.30e+00
L1 1 3 5.50e-09

.ENDS

.SUBCKT EGPD350ELL132MK20H_-40deg-C 1 2

C1 4 2 6.11e-05
C2 5 2 2.86e-04
C3 6 2 8.09e-04
R1 3 4 1.33e-01
R2 4 5 2.05e-02
R3 5 6 6.28e-02
L1 1 3 5.50e-09

.ENDS

.SUBCKT EGPD350ELL132MK20H_135deg-C 1 2

C1 4 2 9.31e-04
C2 5 2 3.70e-04
C3 6 2 5.81e-05
R1 3 4 1.45e-02
R2 4 5 6.85e-02
R3 5 6 9.77e+00
L1 1 3 5.50e-09

.ENDS
*$

*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EGPD350ELL182MK25H
*//   Date        : 2018/02/16
*//   Update 	  : 2018/06/15 Added SPICE model (-40deg.C/135deg.C)
*//		  : 2018/11/08 Corrected the SUBCKT
*//   Simulater   : P-Spice
*//   Temperature : 20deg.C/-40deg.C/135deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EGPD350ELL182MK25H_20deg-C 1 2

C1 4 2 4.67e-04
C2 5 2 8.90e-04
C3 6 2 1.79e-04
R1 3 4 2.59e-02
R2 4 5 7.56e-03
R3 5 6 1.17e-01
L1 1 3 5.70e-09

.ENDS

.SUBCKT EGPD350ELL182MK25H_-40deg-C 1 2

C1 4 2 1.77e-06
C2 5 2 2.17e-04
C3 6 2 1.18e-03
R1 3 4 1.87e-01
R2 4 5 9.07e-02
R3 5 6 1.35e-01
L1 1 3 5.70e-09

.ENDS

.SUBCKT EGPD350ELL182MK25H_135deg-C 1 2

C1 4 2 1.40e-03
C2 5 2 2.66e-04
C3 6 2 7.60e-05
R1 3 4 1.30e-02
R2 4 5 1.19e-01
R3 5 6 7.41e+00
L1 1 3 5.70e-09

.ENDS
*$

*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EGPD350ELL302ML25H
*//   Date        : 2018/02/16
*//   Update 	  : 2018/06/15 Added SPICE model (-40deg.C/135deg.C)
*//		  : 2018/11/08 Corrected the SUBCKT
*//   Simulater   : P-Spice
*//   Temperature : 20deg.C/-40deg.C/135deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EGPD350ELL302ML25H_20deg-C 1 2

C1 4 2 2.16e-03
C2 5 2 4.87e-04
C3 6 2 8.91e-05
R1 3 4 2.27e-02
R2 4 5 4.41e-02
R3 5 6 1.42e+00
L1 1 3 7.50e-09

.ENDS

.SUBCKT EGPD350ELL302ML25H_-40deg-C 1 2

C1 4 2 1.90e-06
C2 5 2 5.26e-04
C3 6 2 1.96e-03
R1 3 4 1.23e-01
R2 4 5 9.86e-02
R3 5 6 8.93e-02
L1 1 3 7.50e-09

.ENDS

.SUBCKT EGPD350ELL302ML25H_135deg-C 1 2

C1 4 2 2.25e-03
C2 5 2 6.88e-04
C3 6 2 1.19e-04
R1 3 4 1.24e-02
R2 4 5 6.47e-02
R3 5 6 8.40e+00
L1 1 3 7.50e-09

.ENDS
*$

*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EMVH250ARA101MF80G
*//   Date        : 2018/02/08
*//   Update 	  : 2018/06/15 Added SPICE model (-40deg.C/125deg.C)
*//		  : 2018/11/08 Corrected the SUBCKT
*//   Simulater   : P-Spice
*//   Temperature : 20deg.C/-40deg.C/125deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMVH250ARA101MF80G_20deg-C 1 2

C1 4 2 8.88e-06
C2 5 2 2.45e-05
C3 6 2 5.02e-05
R1 3 4 3.43e-01
R2 4 5 5.88e-02
R3 5 6 1.40e-01
L1 1 3 3.00e-09

.ENDS

.SUBCKT EMVH250ARA101MF80G_-40deg-C 1 2

C1 4 2 5.46e-08
C2 5 2 1.10e-05
C3 6 2 6.63e-05
R1 3 4 3.70e+00
R2 4 5 2.13e+00
R3 5 6 2.41e+00
L1 1 3 3.00e-09

.ENDS

.SUBCKT EMVH250ARA101MF80G_125deg-C 1 2

C1 4 2 2.74e-05
C2 5 2 6.25e-05
C3 6 2 4.12e-06
R1 3 4 8.11e-02
R2 4 5 2.36e-02
R3 5 6 1.51e+00
L1 1 3 3.00e-09

.ENDS
*$

